data/polar.json
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:4](=[O+:15][CH3:14])[c:16]1[cH:9][cH:7][cH:6][cH:8][cH:10]1.[S:1]([c:2]1[cH:17][cH:11][cH:5][cH:12][cH:18]1)([O-:3])=[O:13]>>[S+:1]([c:2]1[cH:17][cH:11][cH:5][cH:12][cH:18]1)([O-:3])([CH:4]([O:15][CH3:14])[c:16]1[cH:9][cH:7][cH:6][cH:8][cH:10]1)=[O:13]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Pi-/LP+", [4, 15], [15]]]}
{"reaction_name": "Biomimetic terpene cyclization", "rsmi": "[CH2:1]([CH2:4][CH:2]=[C:6]([CH3:3])[CH2+:8])[CH2:5][C:7]([CH3:9])=[CH2:10]>>[CH2:1]1[CH2:4][CH:2]=[C:6]([CH3:3])[CH2:8][C:7]([CH3:9])([CH2+:10])[CH2:5]1", "epd": [["Pi-/Sigma+", [7, 10], [7, 8]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:2][O:6][c:8]1[cH:27][cH:14][c:13]([CH:21]=[C:19]2[CH:22]=[C:10]([Br:17])[C:12](=[O:16])[C:11]([Br:18])=[CH:23]2)[cH:15][cH:28]1.[cH:1]1[cH:4][c:5]2[c:25]([cH:9][cH:26]1)[CH:24]=[CH:3][CH:20]2[Li:7]>>[Li+:7].[cH:1]1[cH:4][c:5]2[c:25]([cH:9][cH:26]1)[CH:24]=[CH:3][CH:20]2[CH:21]([c:13]1[cH:14][cH:27][c:8]([O:6][CH3:2])[cH:28][cH:15]1)[c:19]1[cH:22][c:10]([Br:17])[c:12]([O-:16])[c:11]([Br:18])[cH:23]1", "epd": [["Sigma-/Sigma+", [20, 7], [20, 21]], ["Pi-/Pi+", [21, 19], [19, 22]], ["Pi-/Pi+", [22, 10], [10, 12]], ["Pi-/LP+", [12, 16], [16]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:4][C:18]([F:5])([F:6])[F:7])[S:2](=[O:26])(=[O:27])[c:9]2[c:29]([cH:28][cH:10][cH:30][cH:32]2)[C:31]1=[O:22].[c:3]1([S:19](=[O:23])(=[O:24])[CH-:33][c:13]2[cH:11][cH:20][cH:25][cH:21][cH:12]2)[cH:14][cH:16][cH:8][cH:17][cH:15]1>>[N:1]1=[C:31]([O-:22])[c:29]2[c:9]([cH:32][cH:30][cH:10][cH:28]2)[S:2]1(=[O:26])=[O:27].[c:3]1([S:19](=[O:23])(=[O:24])[CH:33]([S:4][C:18]([F:5])([F:6])[F:7])[c:13]2[cH:11][cH:20][cH:25][cH:21][cH:12]2)[cH:14][cH:16][cH:8][cH:17][cH:15]1", "epd": [["LP-/Sigma+", [33], [33, 4]], ["Sigma-/Pi+", [4, 1], [1, 31]], ["Pi-/LP+", [31, 22], [22]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:2]1[c:21]2[cH:18][cH:26][c:23]([S-:9])[cH:16][c:24]2[cH:13][cH:3][cH:22]1.[n:1]1[n:4][c:20]2[n:7]([cH:10][c:19]([N+:6](=[O:5])[O-:15])[cH:14][c:11]2[N+:12](=[O:8])[O-:25])[n:17]1>>[n:1]1[n:4][c:20]2[n:7]([n:17]1)[CH:10]([S:9][c:23]1[cH:16][c:24]3[cH:13][cH:3][cH:22][cH:2][c:21]3[cH:18][cH:26]1)[C:19](=[N+:6]([O-:5])[O-:15])[CH:14]=[C:11]2[N+:12](=[O:8])[O-:25]", "epd": [["LP-/Sigma+", [9], [9, 10]], ["Pi-/Pi+", [10, 19], [19, 6]], ["Pi-/LP+", [6, 5], [5]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[C:6]1(=[CH2:13])[N:20]([CH3:7])[c:19]2[cH:11][cH:15][cH:16][cH:12][c:18]2[N:21]1[CH3:8].[O:1]=[S:5](=[O:2])([N:17]=[C:14]=[O:22])[c:24]1[cH:9][cH:3][c:23]([CH3:25])[cH:4][cH:10]1>>[O:1]=[S:5](=[O:2])([N-:17][C:14]([CH2:13][c:6]1[n+:20]([CH3:7])[c:19]2[cH:11][cH:15][cH:16][cH:12][c:18]2[n:21]1[CH3:8])=[O:22])[c:24]1[cH:9][cH:3][c:23]([CH3:25])[cH:4][cH:10]1", "epd": [["LP-/Pi+", [20], [6, 20]], ["Pi-/Sigma+", [13, 6], [13, 14]], ["Pi-/LP+", [14, 17], [17]]]}
{"reaction_name": "Nitro-to-amine reduction", "rsmi": "[H:2][H:3].[H:4][H:5].[H:6][H:7].[N+:1](=[O:8])([CH3:9])[O-:10]>>[H:4][O:8][H:5].[H:6][O:10][H:7].[N:1]([H:2])([H:3])[CH3:9]", "epd": [["Sigma-/LP+", [1, 10], [1]], ["Pi-/Sigma+", [1, 8], [1, 2]], ["Sigma-/LP+", [1, 8], [8]], ["Sigma-/Sigma+", [4, 5], [4, 8]], ["Sigma-/Sigma+", [2, 3], [1, 3]], ["LP-/Sigma+", [8], [5, 8]], ["Sigma-/Sigma+", [6, 7], [6, 10]], ["LP-/Sigma+", [10], [7, 10]]]}
{"reaction_name": "Allylic acetate displacement", "rsmi": "[CH3:1][C:3](=[O:4])[O:8][CH2:7][CH:5]=[CH2:9].[O-:2][CH3:6]>>[CH3:1][C:3](=[O:4])[O-:8].[O:2]([CH3:6])[CH2:7][CH:5]=[CH2:9]", "epd": [["LP-/Sigma+", [2], [2, 7]], ["Sigma-/LP+", [7, 8], [8]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:1]1([c:21]2[cH:30][cH:3][n:37][cH:4][cH:31]2)[CH2:17][CH2:34][CH2:6][CH:18]1[C:28]([c:24]1[cH:8][cH:13][cH:19][cH:14][cH:9]1)([c:25]1[cH:10][cH:15][cH:20][cH:16][cH:11]1)[F:33].[c:2]12[c:27]([n:7][o:36][n+:35]1[O-:5])[n:26][c:22]([O:29][CH3:23])[n:12][cH:32]2>>[N+:1]1(=[c:21]2[cH:30][cH:3][n:37]([CH:32]3[c:2]4[c:27]([n:7][o:36][n+:35]4[O-:5])[N:26]=[C:22]([O:29][CH3:23])[N-:12]3)[cH:4][cH:31]2)[CH2:17][CH2:34][CH2:6][CH:18]1[C:28]([c:24]1[cH:8][cH:13][cH:19][cH:14][cH:9]1)([c:25]1[cH:10][cH:15][cH:20][cH:16][cH:11]1)[F:33]", "epd": [["LP-/Pi+", [1], [1, 21]], ["Pi-/Sigma+", [4, 37], [32, 37]], ["Pi-/LP+", [12, 32], [12]], ["Pi-/Pi+", [21, 31], [4, 31]]]}
